simulator lang=spectre
// Pi winding includes metal loss, winding capacitance and lossy substrate.
// Fitted Q and all geometry remain explicitly provisional; IREF remains ideal.
subckt tx_lc_core_v4r (vp vn b3 b4 b5 b6 b7 vdd vss)
parameters tank_c=750f tank_l=2n tank_r=7 ibias=80u core_w=20u cscale=1 boost_unit=500n
XP (vdd vp vss) tx_inductor_pi ls=tank_l rs=tank_r cw=20f*cscale cox=80f*cscale csub=50f*cscale
XN (vdd vn vss) tx_inductor_pi ls=tank_l rs=tank_r cw=20f*cscale cox=80f*cscale csub=50f*cscale
CP (vp vss) capacitor c=tank_c
CN (vn vss) capacitor c=tank_c
MN0 (vp vn tail vss) nch w=core_w l=180n ad=core_w*240n as=core_w*240n pd=2*(core_w+240n) ps=2*(core_w+240n)
MN1 (vn vp tail vss) nch w=core_w l=180n ad=core_w*240n as=core_w*240n pd=2*(core_w+240n) ps=2*(core_w+240n)
MT (tail nfilt vss vss) nch w=30u l=1u ad=7.2p as=7.2p pd=60.48u ps=60.48u
MR (nb nb vss vss) nch w=2u l=1u ad=.48p as=.48p pd=4.48u ps=4.48u
IREF (vdd nb) isource dc=ibias
RF (nb nfilt) resistor r=1Meg
CF (nfilt vss) capacitor c=10p
// Upper five coarse bits add a gradual tail-current slope.
// Source gating leaves every mirror gate on the quiet, continuously filtered bias.
MA3 (tail nfilt s3 vss) nch w=boost_unit*1 l=1u ad=boost_unit*1*240n as=boost_unit*1*240n pd=2*(boost_unit*1+240n) ps=2*(boost_unit*1+240n)
ME3 (s3 b3 vss vss) nch w=boost_unit*4*1 l=180n ad=boost_unit*4*1*240n as=boost_unit*4*1*240n pd=2*(boost_unit*4*1+240n) ps=2*(boost_unit*4*1+240n)
MA4 (tail nfilt s4 vss) nch w=boost_unit*2 l=1u ad=boost_unit*2*240n as=boost_unit*2*240n pd=2*(boost_unit*2+240n) ps=2*(boost_unit*2+240n)
ME4 (s4 b4 vss vss) nch w=boost_unit*4*2 l=180n ad=boost_unit*4*2*240n as=boost_unit*4*2*240n pd=2*(boost_unit*4*2+240n) ps=2*(boost_unit*4*2+240n)
MA5 (tail nfilt s5 vss) nch w=boost_unit*4 l=1u ad=boost_unit*4*240n as=boost_unit*4*240n pd=2*(boost_unit*4+240n) ps=2*(boost_unit*4+240n)
ME5 (s5 b5 vss vss) nch w=boost_unit*4*4 l=180n ad=boost_unit*4*4*240n as=boost_unit*4*4*240n pd=2*(boost_unit*4*4+240n) ps=2*(boost_unit*4*4+240n)
MA6 (tail nfilt s6 vss) nch w=boost_unit*8 l=1u ad=boost_unit*8*240n as=boost_unit*8*240n pd=2*(boost_unit*8+240n) ps=2*(boost_unit*8+240n)
ME6 (s6 b6 vss vss) nch w=boost_unit*4*8 l=180n ad=boost_unit*4*8*240n as=boost_unit*4*8*240n pd=2*(boost_unit*4*8+240n) ps=2*(boost_unit*4*8+240n)
MA7 (tail nfilt s7 vss) nch w=boost_unit*16 l=1u ad=boost_unit*16*240n as=boost_unit*16*240n pd=2*(boost_unit*16+240n) ps=2*(boost_unit*16+240n)
ME7 (s7 b7 vss vss) nch w=boost_unit*4*16 l=180n ad=boost_unit*4*16*240n as=boost_unit*4*16*240n pd=2*(boost_unit*4*16+240n) ps=2*(boost_unit*4*16+240n)
ends tx_lc_core_v4r
