simulator lang=spectre
include "inductor_pi.scs"
include "lc_core_v4n.scs"
include "cap_bank_experiment.scs"
// Q and parasitics are provisional RLC assumptions. Bias reference stays ideal.
subckt tx_lc_vco_v4n (vp vn ctrl b0 b1 b2 b3 b4 b5 b6 b7 vdd vss)
parameters fixed_c=20f tank_l=1.6n series_r=5 cscale=1 core_w=80u pcore_w=80u ibias=80u unit_c=6.5f unit_w=2.4u fine_w=3u
XL (vp vn vdd vss) tx_lc_core_v4n tank_l=tank_l tank_r=series_r tank_c=fixed_c core_w=core_w ibias=ibias cscale=cscale
XBP (vp b0 b1 b2 b3 b4 b5 b6 b7 vss) tx_cap_bank_experiment unit_c=unit_c unit_w=unit_w
XBN (vn b0 b1 b2 b3 b4 b5 b6 b7 vss) tx_cap_bank_experiment unit_c=unit_c unit_w=unit_w
CVP (vp ctrl) nmoscap lr=2u wr=fine_w mr=1
CVN (vn ctrl) nmoscap lr=2u wr=fine_w mr=1
ends tx_lc_vco_v4n
